US06110956
2-(5-Fluoro-benzofuran-7-yloxy)-ethylamine
A solution 2-(5-fluoro-benzofuran-7-yloxy)-ethylazide (0.82 g, 3.7 mmol) and triphenylphosphine (1.17 g, 4.4 mmol) in tetrahydrofuran (50 ml) and water (2 ml) was allowed to stir for 18 hours at room temperature. The solvent was removed under vacuum. Chromatography (30% methanol-methylene chloride plus ammonium hydroxide) afford 0.55 g (73%) of product as a yellow oil: MS ESI 196 m/e (M+H)+

reactant | 2-(5-fluoro-benzofuran-7-yloxy)-ethylazide | 3.7 mmol, 0.82 g | FC=1C=C(C2=C(C=CO2)C1)OCCN=[N+]=[N-] | C10H8FN3O2
reactant | triphenylphosphine | 4.4 mmol, 1.17 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 2-(5-Fluoro-benzofuran-7-yloxy)-ethylamine | 0.55 g, 73% | FC=1C=C(C2=C(C=CO2)C1)OCCN | C10H10FNO2
